US08669234B2
To 2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (1.00 g, 4.97 mmol) and 4-bromo-benzoic acid (996 mg, 4.97 mmol) in DMF (25 mL) was added N-methylmorpholine (655 μl, 5.96 mmol) and HATU (1.89 g, 4.97 mmol). After stirring for 3 hours the reaction was concentrated then diluted with EtOAc and washed with 1N HCl, saturated NaHCO3, and brine. The organic phase was then dried over Na2SO4 and concentrated. The crude material was purified by silica gel chromatography (20-50% EtOAc-hexanes gradient) to afford 2-[(4-bromo-benzoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.91 g, 4.97 mmol, quantitative yield). LCMS-ESI+: calc'd for C17H24BrN2O3: 383.1 (M+H+). Found: 383.6

reactant | 2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.97 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1C(CCC1)CN | C10H20N2O2
reactant | 4-bromo-benzoic acid | 4.97 mmol, 996 mg | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | N-methylmorpholine | 5.96 mmol, 655 μl | CN1CCOCC1 | C5H11NO
reactant | HATU | 4.97 mmol, 1.89 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-[(4-bromo-benzoylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.97 mmol, 1.91 g, quantitative yield | C(C)(C)(C)OC(=O)N1C(CCC1)CNC(C1=CC=C(C=C1)Br)=O | C17H23BrN2O3
